US04956367
24.4 g (0.4 mole) of 2-aminoethanol, dissolved in 100 ml of dioxane, are added dropwise into a solution of 38.4 g (0.2 mole) of 2,4-dichloro-6-propyl-1,3,5-triazine in 100 ml of dioxane at room temperature. After the addition, stirring is continued overnight. The 2-aminoethanol hydrochloride is filtered off and the filtrate is evaporated under reduced pressure. The residue obtained is recrystallized from a mixture of ethyl acetate-hexane 50:50 (v/v). 41.5 g of 2-[(4-chloro-6-propyl-1,3,5-triazin-2-yl)amino]-ethanol are obtained.

reactant | 2-aminoethanol | 0.4 mole, 24.4 g | NCCO | C2H7NO
reactant | 2,4-dichloro-6-propyl-1,3,5-triazine | 0.2 mole, 38.4 g | ClC1=NC(=NC(=N1)Cl)CCC | C6H7Cl2N3
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | 2-[(4-chloro-6-propyl-1,3,5-triazin-2-yl)amino]-ethanol | 41.5 g, Yield: 96% | ClC1=NC(=NC(=N1)CCC)NCCO | C8H13ClN4O
